US07456200B2
2-[5-(3-Methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethylsulfanyl]-1H-benzoimidazole
1H-Benzoimidazole-2-thiol (150 mg, 1 mmol) was added to a solution of the 3-chloromethyl-5-(3-methoxy-phenyl)-[1,2,4]oxadiazole (30 mg, 0.13 mmol) and potassium carbonate (50 mg, 0.36 mmol) in DMF (2 ml) at room temperature. The solvent was removed in vacuo and the product obtained by flash chromatography using 20-100% ethyl acetate in hexane. 1H NMR (CDCl3), δ (ppm): 7.71 (d, 1H), 7.62 (d, 1H), 7.53 (m, 2H), 7.42 (t, 1H), 7.18 (overlapping, m, 3H), 4.52 (s, 2H), 3.87 (s, 3H).

reactant | 1H-Benzoimidazole-2-thiol | 1 mmol, 150 mg | N1C(=NC2=C1C=CC=C2)S | C7H6N2S
reactant | 3-chloromethyl-5-(3-methoxy-phenyl)-[1,2,4]oxadiazole | 0.13 mmol, 30 mg | ClCC1=NOC(=N1)C1=CC(=CC=C1)OC | C10H9ClN2O2
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 2-[5-(3-Methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethylsulfanyl]-1H-benzoimidazole | COC=1C=C(C=CC1)C1=NC(=NO1)CSC1=NC2=C(N1)C=CC=C2 | C17H14N4O2S
